US04095019
Preparation of p-(n-butyl)aniline diacetic acid
Into a three-neck r.b. flask, equipped with glass stirrer, reflux condenser, thermometer, and addition funnel were placed 29.9g (0.2M) p-n-butylaniline; 46.6g (0.4M) sodium chloroacetate dissolved in a solution of 200 ml water and 45 ml dioxane and 10 drops of a mixed acid/base indicator. The solution was heated to reflux and a solution of 16g sodium hydroxide in 64 ml water was added dropwise so as to maintain the pH between 5 and 8 as shown by the indicator. Reaction was completed within 4 hours. The reaction mixture upon dilution with 500 ml water and cooling was acidified with 43 ml conc. hydrochloric acid. The formed precipitate was filtered and washed twice with 200 ml of water at pH 1.3 and dried under vacuum at 40° C. Yield: 41.2g beige solids (%N = 4.9.)

reactant | p-n-butylaniline | 0.2M, 29.9g | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | sodium chloroacetate | 0.4M, 46.6g | ClCC(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 43 ml | Cl | ClH
reactant | dioxane | 45 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | water | 64 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | p-(n-butyl)aniline diacetic acid | C(CCC)C1=CC=C(N(CC(=O)O)CC(=O)O)C=C1 | C14H19NO4
